* Z:\home\danieltyukov\workspace\tud\tud-analog-cmos-design-1\hw2\discrete_time_fully_differential_folded_cascode_amplifier.asc
Mp1 Vsp Vbp Vddb Vddb pch l={L} w={W} m={Mp}
Mp2 Vbp Vcp Vsp Vddb pch l={L} w={W} m={Mp}
Mp3 Vcp Vcp Vddb Vddb pch l={L} w={W} m={Mp}
Mn1 Vsn Vbn 0 0 nch l={L} w={W} m={Mn}
Mn2 Vbn Vcn Vsn 0 nch l={L} w={W} m={Mn}
Mn3 Vcn Vcn 0 0 nch l={L} w={W} m={Mn}
Ibm Vbp Vbn {Ibm}
Ibn Vddb Vcn {Ibm*Rn}
Ibp Vcp 0 {Ibm*Rp}
V1 Vddb 0 1.8
V2 Vdd 0 1.8
C1 Vdd Vbp {Cbig}
C2 Vdd Vsp {Cbig}
C3 Vdd Vcp {Cbig}
C4 0 Vbn {Cbig}
C5 0 Vsn {Cbig}
C6 0 Vcn {Cbig}
E1 N002 Vbcm N003 Vbn 1
R1 N002 Voutn {Rbig}
R2 Voutp N002 {Rbig}
C7 Voutp Vbcm {Cfb}
C8 Voutn Vbcm {Cfb}
Vcm N003 0 0.9
E2 N005 Vpl Vgpp Vgpn {Aadd/2}
E3 Vpr N005 Vgpp Vgpn {Aadd/2}
E4 N005 0 Vcp 0 1
E5 N006 Vnl Vgnp Vgnn {Aadd/2}
E6 Vnr N006 Vgnp Vgnn {Aadd/2}
E7 N006 0 Vcn 0 1
Mp1.2 Vgpn Vbp Vdd Vdd pch l={L} w={W} m={Mp13}
Mn5.2 Vgnn Vbcm 0 0 nch l={L} w={W} m={Mn56}
Mp2.2 Voutp Vpr Vgpn Vdd pch l={L} w={W} m={Mp24}
Mn6.2 Voutp Vnr Vgnn 0 nch l={L} w={W} m={Mn56}
Mp3.2 Vgpp Vbp Vdd Vdd pch l={L} w={W} m={Mp13}
Mn7.2 Vgnp Vbcm 0 0 nch l={L} w={W} m={Mn78}
Mp4.2 Voutn Vpl Vgpp Vdd pch l={L} w={W} m={Mp24}
Mn8.2 Voutn Vnl Vgnp 0 nch l={L} w={W} m={Mn78}
Mn4.2 Vgpp Vin N001 0 nch l={L} w={W} m={Mn34}
Mn3.2 Vgpn Vip N001 0 nch l={L} w={W} m={Mn34}
Mn2.2 N001 Vbcn N004 0 nch l={L} w={W} m={Mn12}
Mn1.2 N004 Vbn 0 0 nch l={L} w={W} m={Mn12}
Mp1.3 Vgpn_rep Vbp Vdd Vdd pch l={L} w={W} m={Mp13}
Mn5.3 Vgnn_rep Vbcm_rep 0 0 nch l={L} w={W} m={Mn56}
Mp2.3 Voutp2 Vpr_rep Vgpn_rep Vdd pch l={L} w={W} m={Mp24}
Mn6.3 Voutp2 Vnr_rep Vgnn_rep 0 nch l={L} w={W} m={Mn56}
Mp3.3 Vgpp_rep Vbp Vdd Vdd pch l={L} w={W} m={Mp13}
Mn7.3 Vgnp_rep Vbcm_rep 0 0 nch l={L} w={W} m={Mn78}
Mp4.3 Voutn2 Vpl_rep Vgpp_rep Vdd pch l={L} w={W} m={Mp24}
Mn8.3 Voutn2 Vnl_rep Vgnp_rep 0 nch l={L} w={W} m={Mn78}
Mn4.3 Vgpp_rep Vin_rep N011 0 nch l={L} w={W} m={Mn34}
Mn3.3 Vgpn_rep Vip_rep N011 0 nch l={L} w={W} m={Mn34}
Mn2.3 N011 Vbcn N013 0 nch l={L} w={W} m={Mn12}
Mn1.3 N013 Vbn 0 0 nch l={L} w={W} m={Mn12}
E8 N009 Vpl_rep Vgpp_rep Vgpn_rep {Aadd/2}
E9 Vpr_rep N009 Vgpp_rep Vgpn_rep {Aadd/2}
E10 N009 0 Vcp 0 1
E11 N010 Vnl_rep Vgnp_rep Vgnn_rep {Aadd/2}
E12 Vnr_rep N010 Vgnp_rep Vgnn_rep {Aadd/2}
E13 N010 0 Vcn 0 1
E14 N007 Vbcm_rep N008 Vbn 1
R3 N007 Voutn2 {Rbig}
R4 Voutp2 N007 {Rbig}
C9 Voutp2 Vbcm_rep {Cfb}
C10 Voutn2 Vbcm_rep {Cfb}
Vcm1 N008 0 0.9
E15 Vbcn 0 Vcn 0 1
C11 0 Voutn {Cload}
C12 0 Voutp {Cload}
L1 Vinpn Vin {Lbig}
L2 Vip Vinpp {Lbig}
R5 Voutp Vinpp {Rfb}
C13 Voutp Vinpp {Cfb}
R6 Vinpn Voutn {Rfb}
C14 Vinpn Voutn {Cfb}
R7 N012 Vinpn {Rin}
C15 N012 Vinpn {Cin}
R8 N012 Vinpp {Rin}
C16 N012 Vinpp {Cin}
V3 Vin N014 AC 0.5 180
V4 Vip N014 AC 0.5 180
V5 N014 0 0.9
V6 N012 0 0.9
C17 0 Voutn2 {Cload}
C18 0 Voutp2 {Cload}
R9 Vin_rep Voutn2 {Rfb}
R10 Vip_rep Voutp2 {Rfb}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\danieltyukov\Documents\LTspiceXVII\lib\cmp\standard.mos
.param W=1u L=0.18u Mp=60 Mn=11 Ibm=200u Rn=5.8 Rp=7.5 mp_ratio={Mp/Mn}
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\logic018 no1of.l' TT
* Biasing Circuit
* Biasing Voltage Source
* Voltage Source
.param Cbig=1000n Lbig=1000 Rbig=100G Rin=100G
* Decoupling Capacitors
* Ideal CMFB Unloaded
* Ideal Gain-Boosting PMOS\nUnloaded
* Ideal Gain-Boosting NMOS\nUnloaded
* Ideal\nGain-Boosting\nPMOS
* Ideal\nCMFB
* Ideal\nGain-Boosting\nNMOS
* OpAmp with ideal Gain-Boosting Unloaded
* Ideal\nGain-Boosting\nPMOS
* Ideal\nCMFB
* Ideal\nGain-Boosting\nNMOS
* OpAmp with ideal Gain-Boosting Loaded
* Ideal Gain-Boosting PMOS\nLoaded
* Ideal Gain-Boosting NMOS\nLoaded
* Ideal CMFB Loaded
* Vsp & Vsn are used for ration & ratiop determination, unused in the opamp
* Vbcn
* OpAmp in Feedback
.param Aadd=100 Cfb={Cin/8} Rfb={Rin*8} Cload={Cin}
.param Mn12={4*ScaleA} Mn56={2*ScaleA} Mn78={2*ScaleA} Mp13={4*ScaleA*mp_ratio} Mp24={2*ScaleA*mp_ratio}
.param Mn34={2*ScaleA} ScaleA=1 Cin=1.5p
.op
.backanno
.end
